US07459448B2
2-[3-(2-Amino-ethyl)-phenylamino]-9-chloro-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-86)
To a solution of [3-(9-chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-phenyl]-acetonitrile (I-78) (0.131 g, 0.349 mmol) in saturated NH3 in MeOH solution (50 mL) was added a catalytic amount of Raney 2800 Ni in H2O and the mixture was placed under H2 (50 psi) and stirred for 12 h at 22° C. The reaction mixture was filtered through Celite® and the filtrate concentrated in vacuo to give crude product as a yellow oil. Purification by C-18 RP LC-MS chromatography afforded I-86 (0.019 g, 14%): MS (AA) Rt═1.25 min, m/z═380 (M+H).

reactant | [3-(9-chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-phenyl]-acetonitrile | 0.349 mmol, 0.131 g | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC=3C=C(C=CC3)CC#N)=O)C1 | C20H14ClN5O
solvent | NH3 | N | H3N
solvent | MeOH | 50 mL | CO | CH4O
solvent | H2O | O | H2O
catalyst | Ni | [Ni] | Ni
product | 2-[3-(2-Amino-ethyl)-phenylamino]-9-chloro-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | NCCC=1C=C(C=CC1)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)Cl)N1 | C20H18ClN5O
